US07842685B2
Synthesis of 3-fluoro-N-(2-methoxyethyl)-N-methyl-4-(5-(1-phenylcyclopropyl)-[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide
The title compound was synthesized using the procedure described in Example 105 above, with 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid (93 mg, 0.238 mmol) and N-(2-methoxyethyl)methylamine (31 μl, 0.286 mmol). MS (ESI) m/z: Calculated: 461.2; Observed: 462.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzoic acid | 0.238 mmol, 93 mg | FC=1C=C(C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2O2S
reactant | N-(2-methoxyethyl)methylamine | 0.286 mmol, 31 μl | COCCNC | C4H11NO
product | 3-fluoro-N-(2-methoxyethyl)-N-methyl-4-(5-(1-phenylcyclopropyl)-[1,3]thiazolo[5,4-b]pyridin-2-yl)benzamide | FC=1C=C(C(=O)N(C)CCOC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C26H24FN3O2S
